US07115643B2
165 mg (0.55 mmol) of (2R,3R)-3-(2,4-difluorophenyl)-3-hydroxy-2-methyl-4-[1,2,4]triazol-1-yl-butyric acid were dissolved in 3.3 ml of tetrahydrofuran and, after the addition of 120 mg (0.72 mmol) of 1,1′-carbonyldiimidazole, stirred for 2 hours at 60° C. The reaction mixture was poured onto 10 ml of aqueous 0.5N HCl, extracted twice with each 25 ml of ethyl acetate, dried and evaporated to dryness. The crude residue was dissolved in 6 ml of aqueous 25% ammonium hydroxide and, after the addition of 2 mg of dimethylaminopyridine, stirred at room temperature for 1 hour. After evaporation of the reaction mixture the resulting residue was treated with 200 mg of POCl3 at 40° C. for 3 hours. After evaporation of the excess POCl3 under reduced pressure the crude product was poured onto water and extracted twice with 15 ml of ethyl acetate. The organic phase was dried with Na2SO4 and evaporated. Column chromatography on silica gel (eluent ethyl acetate/n-hexane=1:1) gave 95 mg (74%) of (2R,3R)-3-(2,4-difluorophenyl-3-hydroxy-2-methyl-4-[1,2,4]triazol-1-ylbutyronitrile.

reactant | (2R,3R)-3-(2,4-difluorophenyl)-3-hydroxy-2-methyl-4-[1,2,4]triazol-1-yl-butyric acid | 0.55 mmol, 165 mg | FC1=C(C=CC(=C1)F)[C@]([C@H](C(=O)O)C)(CN1N=CN=C1)O | C13H13F2N3O3
reactant | 1,1′-carbonyldiimidazole | 0.72 mmol, 120 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | HCl | 0.5N | Cl | ClH
reactant | tetrahydrofuran | 3.3 ml | O1CCCC1 | C4H8O
product | 2,4-difluorophenyl-3-hydroxy-2-methyl-4-[1,2,4]triazol-1-ylbutyronitrile | FC1=C(C=CC(=C1)F)C(C#N)(C(CN1N=CN=C1)O)C | C13H12F2N4O
